US05811389
2.1 ml of n-butyllithium solution (1.6M in hexane) were added at -78° to a solution of 1.0 g (3.04 mmol) of 3,7-diethoxy-10-ethyl-10H-phenoxazine in 10 ml of absolute tetrahydrofuran. The reaction mixture was stirred at -78° for 30 minutes, brought slowly to 0°, treated with 0.45 ml of 2-(methoxyethoxy)methyl chloride, stirred at room temperature for 2 hours and then poured into ice, saturated sodium bicarbonate solution and diethyl ether. The aqueous phase was extracted twice with diethyl ether and the combined organic phases were dried over magnesium sulphate and evaporated. The residue was chromatographed on 100 g of silica gel with a mixture of diethyl ether/hexane (1:1), whereupon, after drying in a high vacuum, 1.13 g (89%) of 10-ethyl-3,7-diethoxy-4-[[(2-methoxyethoxy)methoxy]methyl]-10H-dibenzo[b,e][1,4]oxazine were obtained as a colourless oil. MS: 417 (M+ ; 100), 388(58), 313(20), 284(44), 254(60), 226(30).

reactant | n-butyllithium | 1.6M, 2.1 ml | C(CCC)[Li]
reactant | 3,7-diethoxy-10-ethyl-10H-phenoxazine | 3.04 mmol, 1.0 g | C(C)OC=1C=CC=2N(C3=CC=C(C=C3OC2C1)OCC)CC | C18H21NO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 10-ethyl-3,7-diethoxy-4-[[(2-methoxyethoxy)methoxy]methyl]-10H-dibenzo[b,e][1,4]oxazine | 1.13 g, 89% | C(C)N1C2=C(OC3=C1C=CC(=C3)OCC)C(=C(C=C2)OCC)COCOCCOC | C23H31NO6
